US05350767
Preparation of N-isobutyryl-L-cysteine
A suspension of 35.2 g (0.20 mol of L-cysteine hydrochloride monohydrate in 100 ml of a mixture of 80% of tetrahydrofuran (THF) and 20% of water was stirred under nitrogen at room temperature and treated with 44.0 g (0.40 mol of sodium isobutyrate. The reaction mixture (white slurry) was cooled to 0°-5° C. and, under nitrogen, 35 ml (0.21 mol) of isobutyryl anhydride was added dropwise. The resulting mobile suspension was stirred for 6 h at room temperature, allowed to stand overnight, and finally heated under reflux for 4 h. The reaction mixture was cooled on an ice bath and 18 ml of concentrated hydrogen chloride was added. The organic phase was evaporated to give a colourless oil. The oil was washed with hexane and thereafter treated with ether to give 12.9 g of the title compound as a white solid, mp 103°-104° C. (recrystallized from butyl acetate), [α]D25 =+23.4° C. (c 5.0 , H2O, pH=7.0), 1H-NMR (CDCl3): δ1.2 (6H, d, CH3), 1.4 (1H, t, SH), 2.5 (1H, sept, CH), 3.1 (2H, m, CH2), 4.9 (1H, dt, NCH), 6.7 (1H, d, NH), 10.6 (1H, s, OH). 13C-NMR (CDCl3): δ19, 19.5; 26.5; 36; 54, 172, 178. ms: 335 (M+ +2TMS, after silylation).

reactant | L-cysteine hydrochloride monohydrate | 0.20 mol | O.Cl.N[C@@H](CS)C(=O)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium isobutyrate | 0.40 mol | C(C(C)C)(=O)[O-].[Na+]
reactant | hydrogen chloride | 18 ml | Cl | ClH
solvent | water | O | H2O
product | N-isobutyryl-L-cysteine | C(C(C)C)(=O)N[C@@H](CS)C(=O)O | C7H13NO3S
